US07745641B2
4-Hydroxy-5-methoxy-7-iodoisoindolinone (30.0 mg, 0.0983 mmol) was dissolved in DMF (2 mL), and the solution was treated with potassium carbonate (26.0 mg, 0.188 mmol) and methyl iodide (0.020 mL, 0.32 mmol), followed by stirring at room temperature for 1.5 hours. The reaction mixture was added with water and the precipitated solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 4,5-dimethoxy-7-iodoisoindolinone (22.0 mg, yield 70%).

reactant | 4-Hydroxy-5-methoxy-7-iodoisoindolinone | 0.0983 mmol, 30.0 mg | OC1=C2CNC(C2=C(C=C1OC)I)=O | C9H8INO3
reactant | potassium carbonate | 0.188 mmol, 26.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.32 mmol, 0.020 mL | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4,5-dimethoxy-7-iodoisoindolinone | 22.0 mg, yield 70% | COC1=C2CNC(C2=C(C=C1OC)I)=O | C10H10INO3
